Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Penicillins / meperidine / promethazine / codeine / secobarbital 
/ loratadine
 
Attending: ___.
 
Chief Complaint:
AAA
 
Major Surgical or Invasive Procedure:
___: EVAR

 
History of Present Illness:
Ms. ___ is a ___ woman who has an enlarging 5 cm 
infrarenal abdominal aortic aneurysm that was found to be 
amenable to standard endovascular repair. She was followed 
closely by Dr. ___ as an outpatient and the size of enlarging 
AAA was monitored until it was decided she should have it 
repaired.

Pre-Operative Workup by Dr. ___:

MEDICAL DECISION MAKING:  I reviewed her CAT scan in detail with
her and her daughter.  This shows a typical fusiform infrarenal
aortic aneurysm with maximal dimension of 5 cm.  The AP and
lateral ___ are 4.6 x 5.5.  She has an adequate 
infrarenal
aortic neck and iliac diameters for endovascular repair.

After reviewing the CAT scan with Ms. ___ and ___ daughter
in detail, I have recommended endovascular aneurysm repair
because of the steady and persistent rate of growth as well as
its absolute size of 5 cm.  I think she is a good endovascular
candidate.  We discussed endovascular repair in detail with its
risks and benefits.  I highlighted the need for ongoing
surveillance over her lifetime.  We discussed the potential need
for future revisions.  She is eager to proceed.  We will set 
this
up at her convenience in the next couple of months.
 
Past Medical History:
PMH:AAA, CVA with no residual deficitis, RA, polymyositis, 
asthma, dyslipidemia, hypothyroid,

PSH: None
 
Social History:
___
Family History:
Unremarkable for any aneurysmal disease. There is a family 
history of diabetes and cancer.

 
Physical Exam:
VITALS: Temp 97.8, HR 79, BP 110/49, RR 21, SpO2 96%

GEN: NAD, well appearing and pleasant
HEENT: NCAT, EOMI, no scleral icterus
CV: mild sinus tachycardia, radial pulses 2+ b/l
RESP: breathing comfortably on room air, diminished inspiratory 
capacity, diminished lung sounds at the bilateral bases with 
mild crackles in her mid and inferior lung fields posteriorly
GI: soft, non-TTP, no R/G/D, BS+ throughout, bilateral groin 
incisions well appearing with no bleeding, hematoma or purulence
EXT: WWP, no peripheral edema
PULSES: R: p/p/p/p  L: p/p/p/p
 
Pertinent Results:
___ 12:11PM BLOOD WBC-7.7 RBC-3.48* Hgb-11.4 Hct-35.8 
MCV-103* MCH-32.8* MCHC-31.8* RDW-13.7 RDWSD-51.6* Plt ___
___ 04:19AM BLOOD Creat-0.3* K-4.1
___ 12:11PM BLOOD Glucose-119* UreaN-10 Creat-0.2* Na-137 
K-3.4 Cl-101 HCO3-28 AnGap-11
___ 12:11PM BLOOD Calcium-7.8* Phos-2.8 Mg-1.9
___ 11:53AM BLOOD Type-ART pO2-139* pCO2-39 pH-7.46* 
calTCO2-29 Base XS-4 Intubat-INTUBATED
___ 11:53AM BLOOD Glucose-83 Lactate-1.3 Na-138 K-2.6* 
Cl-106
___ 11:53AM BLOOD Hgb-10.3* calcHCT-31 O2 Sat-98
 
Brief Hospital Course:
Ms. ___ is a  with an enlarging 5.0 cm AAA who was admitted 
to the ___ on ___. The 
patient was taken to the endovascular suite and underwent an 
uncomplicated EVAR. For details of the procedure, please see the 
surgeon's operative note. The patient tolerated the procedure 
well without complications and was brought to the 
post-anesthesia care unit in stable condition. After a brief 
stay, the patient was transferred to the vascular surgery floor 
where she remained through the rest of the hospitalization. 

Post-operatively, she did well without any groin swelling. She 
did have some new onset lower back pain which was thought to be 
secondary to a musculoskeletal etiology, as the pain was 
reproducible and responded well to a Lidocaine patch and warm 
compresses. She was also noted to have a WBC of 16 on POD#2, day 
of her discharge, which was attributed to a post-operative 
inflammatory response. She had a negative UA and a 
non-concerning CXR that was performed on POD#2 as well. She felt 
comfortable being discharged home. 

Prior to her discharge, she was able to tolerate a regular diet, 
get out of bed and ambulate without assistance, void without 
issues, and pain was controlled on oral medications alone. We 
monitored her incisions and peripheral pulse status, which 
remained reassuring. She was deemed ready for discharge, and was 
given the appropriate discharge and follow-up instructions.

 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. PredniSONE 2.5 mg PO DAILY 
2. metHOTREXate sodium 10 mg oral 1X/WEEK 
3. Alendronate Sodium 70 mg PO WEEKLY 
4. Docusate Sodium 100 mg PO DAILY 
5. fluticasone furoate 27.5 mcg/actuation nasal DAILY:PRN 
6. Pravastatin 10 mg PO QPM 
7. Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID 
8. Omeprazole 20 mg PO DAILY 
9. Aspirin 81 mg PO DAILY 
10. Levothyroxine Sodium 50 mcg PO DAILY 
11. FoLIC Acid 1 mg PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild  
2.  Alendronate Sodium 70 mg PO WEEKLY  
3.  Aspirin 81 mg PO DAILY  
4.  Docusate Sodium 100 mg PO DAILY  
5.  fluticasone furoate 27.5 mcg/actuation nasal DAILY:PRN  
6.  Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID  
7.  FoLIC Acid 1 mg PO DAILY  
8.  Levothyroxine Sodium 50 mcg PO DAILY  
9.  metHOTREXate sodium 10 mg oral 1X/WEEK (MO)  
10.  Omeprazole 20 mg PO DAILY  
11.  Pravastatin 10 mg PO QPM  
12.  PredniSONE 2.5 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
AAA

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Ms. ___, 

You were admitted to the ___ 
for endovascular repair of your abdominal aortic aneurysm. You 
tolerated the procedure well and are ready to return home to 
finish your recovery. 

Monitor your groin incisions closely for bleeding or evidence of 
an underlying hematoma. Please see the following instructions 
regarding your discharge.

MEDICATIONS:
• Take Aspirin 81mg (enteric coated) once daily 
• Do not stop Aspirin unless your Vascular Surgeon instructs you 
to do so. 
• Continue all other medications you were taking before surgery, 
unless otherwise directed
• You make take Tylenol or prescribed pain medications for any 
post procedure pain or discomfort

WHAT TO EXPECT AT HOME:
It is normal to have slight swelling of the legs:
• Elevate your leg above the level of your heart (use ___ 
pillows or a recliner) every ___ hours throughout the day and at 
night
• Avoid prolonged periods of standing or sitting without your 
legs elevated
It is normal to feel tired and have a decreased appetite, your 
appetite will return with time 
• Drink plenty of fluids and eat small frequent meals
• It is important to eat nutritious food options (high fiber, 
lean meats, vegetables/fruits, low fat, low cholesterol) to 
maintain your strength and assist in wound healing
• To avoid constipation: eat a high fiber diet and use stool 
softener while taking pain medication

ACTIVITIES:
• When you go home, you may walk and go up and down stairs
• You may shower (let the soapy water run over groin incision, 
rinse and pat dry)
• Your incision may be left uncovered, unless you have small 
amounts of drainage from the wound, then place a dry dressing or 
band aid over the area that is draining, as needed
• No heavy lifting, pushing or pulling (greater than 5 lbs) for 
1 week (to allow groin puncture to heal)
• After 1 week, you may resume sexual activity
• After 1 week, gradually increase your activities and distance 
walked as you can tolerate
• No driving until you are no longer taking pain medications

CALL THE OFFICE FOR: ___
* Severe back pain that is not improving
• Numbness, coldness or pain in lower extremities 
• Temperature greater than 101.5F for 24 hours
• New or increased drainage from incision or white, yellow or 
green drainage from incisions
• Bleeding from groin puncture site

FOR SUDDEN, SEVERE BLEEDING OR SWELLING (Groin puncture site or 
incision)
• Lie down, keep leg straight and have someone apply firm 
pressure to area for 10 minutes. If bleeding stops, call 
vascular office. If bleeding does not stop, call ___ for 
transfer to closest Emergency Room. 

Good Luck
 
Followup Instructions:
___